US04722934
2-ethoxy-5-[(4-phenoxy)phenoxy]-methyl-1,3,4-thiadiazole
0.76 g of 4-phenoxy phenol was dissolved in 10 ml of acetone followed by adding 0.6 g of anhydrous potassium carbonate and 1.0 g of 2-bromomethyl-5-ethoxy-1,3,4-thiadiazole. The resulting mixture was refluxed with stirring and heated for 2 hours. After cooling, 100 ml of ethyl acetate was added followed by washing with water for two times, and the resulting ethyl acetate layer was dried over anhydrous magnesium sulfate. Ethyl acetate was distilled over under reduced pressure, and the residue was purified by chromatography on silica gel to obtain 1.0 g of the compound No. 1 described in Table 1.

reactant | 4-phenoxy phenol | 0.76 g | O(C1=CC=CC=C1)C1=CC=C(C=C1)O | C12H10O2
reactant | potassium carbonate | 0.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-bromomethyl-5-ethoxy-1,3,4-thiadiazole | 1.0 g | BrCC=1SC(=NN1)OCC | C5H7BrN2OS
reactant | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | acetone | 10 ml | CC(=O)C | C3H6O
product | 2-ethoxy-5-[(4-phenoxy)phenoxy]-methyl-1,3,4-thiadiazole | 1.0 g | C(C)OC=1S(C(=NN1)OC1=CC=C(C=C1)OC1=CC=CC=C1)C | C17H18N2O3S
